US09328099B2
3-(Phenylamino)-1H pyrazole-4-carboxamide
3-Amino-1H-pyrazole-4-carboxamide (19.8 g, 157 mmol), K3PO4 (66.7 g, 314 mmol), bromobenzene (23.2 mL, 220 mmol) and 2-propanol (785 mL) were combined in a round bottom flask and purged with a stream of N2 gas for 40 minutes. Pd2(dba)3 (1.80 g, 1.96 mmol) and 2-di-t-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-tri-i-propylbiphenyl (3.77 g, 7.85 mmol) were added and the reaction was purged for an additional 5 minutes. The reaction mixture was then heated to 80° C. and allowed to stir under a N2 atmosphere for 12 hours. The mixture was then allowed to cool to ambient temperature for an additional 16 hours. The reaction mixture was diluted with EtOAc (300 mL) and filtered through celite (slowly). The celite was washed with EtOAc (300 mL) and the combined filtrates were concentrated in vacuo to afford an oil which was purified by MPLC on silica gel (using a gradient elution of 0-10% MeOH/DCM). The major, low rf product, was isolated to afford a reddish-brown oily solid. The brown solid was suspended in 40 mL of warm MeOH, cooled to ambient temperature, and water (40 mL) was added. The mixture was stirred for 30 minutes and filtered. The solid was suction dried for 16 hours to afford the title compound as a peach-colored solid.

reactant | 3-Amino-1H-pyrazole-4-carboxamide | 157 mmol, 19.8 g | NC1=NNC=C1C(=O)N | C4H6N4O
reactant | K3PO4 | 314 mmol, 66.7 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | bromobenzene | 220 mmol, 23.2 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | 2-di-t-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-tri-i-propylbiphenyl | 7.85 mmol, 3.77 g | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C33H53P
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd2(dba)3 | 1.96 mmol, 1.80 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 40 mL | O | H2O
solvent | 2-propanol | 785 mL | CC(C)O | C3H8O
product | 3-(Phenylamino)-1H pyrazole-4-carboxamide | C1(=CC=CC=C1)NC1=NNC=C1C(=O)N | C10H10N4O
